US07291183B2
1d.) 4-Methyl-3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride
From 4-(2-propenyl)-3-thiosemicarbazide and chloroacetone.

reactant | 4-(2-propenyl)-3-thiosemicarbazide | C(C=C)NC(NN)=S | C4H9N3S
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 4-Methyl-3-(2-propenyl)-2(3H)-thiazolone hydrazone hydrochloride | Cl.CC=1N(C(SC1)=NN)CC=C | InChI=1S/C7H11N3S.ClH/c1-3-4-10-6(2)5-11-7(10)9-8;/h3,5H,1,4,8H2,2H3;1H
